spice
* NMOS Common Source Amplifier

M1 Vout 3 0 0 NMOS_L W=1u L=0.18u

RD 4 Vout 10k
RG 3 2 5k
RS 1 0 1k
CG 2 0 10pF

Vin 1 0 DC 0 AC 1
VDD 4 0 DC 1.8

.model NMOS_L NMOS LEVEL=1

.end